US06498251B1
Synthesis Example 3b 3-(t-Butoxycarbonyl)aminomethyl-4-chloroacetyl-3,4-dihydro-2H-1,4-benzthiazine
A 0.48 ml (3.47 mmol) portion of triethylamine was added to dichloromethane solution (10 ml) containing 0.81 g (2.89 mmol) of 3-(t-butoxycarbonyl)aminomethyl-3,4-dihydro-2H-1,4-benzthiazine and cooled to 0° C. This was mixed with 0.28 ml (3.47 mmol) of chloroacetyl chloride and stirred at room temperature for 3 hours. The reaction solution was poured into ice water and extracted with chloroform. The extract was washed with dilute hydrochloric acid and dried (Na2SO4), and then the solvent was removed by evaporation under a reduced pressure. The thus obtained residue was purified by a silica gel column chromatography (180 cc; elution by ethyl acetate-hexane=1:1) and further recrystallized from ethyl acetate-hexane to obtain 0.64 g of the title compound (62% in yield).

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-(t-butoxycarbonyl)aminomethyl-3,4-dihydro-2H-1,4-benzthiazine | 2.89 mmol, 0.81 g | C(C)(C)(C)OC(=O)NCC1CSC2=C(N1)C=CC=C2 | C14H20N2O2S
reactant | chloroacetyl chloride | 3.47 mmol, 0.28 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(t-Butoxycarbonyl)aminomethyl-4-chloroacetyl-3,4-dihydro-2H-1,4-benzthiazine | 0.64 g, 62% | C(C)(C)(C)OC(=O)NCC1CSC2=C(N1C(CCl)=O)C=CC=C2 | C16H21ClN2O3S
